US07199147B2
To a solution of 2-methoxy-1-(methoxymethoxy)-4-nitrobenzene (1.2 g, 5.63 mmol) in ethyl acetate (30 ml) was added 10%-Pd/C (120 mg) at room temperature, and reaction was carried out under a hydrogen atmosphere. After 30 minutes, the mixture thus obtained was filtered by the use of Celite and the filtrate was concentrated under reduced pressure. To a solution of the resulting residue in ethyl acetate (30 ml) were added pyridine (0.546 ml, 6.75 mmol) and pivaloyl chloride (0.763 ml, 6.19 mmol) at 0° C., and the resulting mixture was warmed up to room temperature. After 15 hours, a saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution and the resulting mixture was poured into water (100 ml) and extracted with ethyl acetate (50 ml×2), and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain N-[3-methoxy-4-(methoxymethoxy)phenyl]-2,2-dimethylpropanamide (1.48 g, 98%).

reactant | 2-methoxy-1-(methoxymethoxy)-4-nitrobenzene | 5.63 mmol, 1.2 g | COC1=C(C=CC(=C1)[N+](=O)[O-])OCOC | C9H11NO5
reactant | pyridine | 6.75 mmol, 0.546 ml | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 6.19 mmol, 0.763 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 120 mg | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | N-[3-methoxy-4-(methoxymethoxy)phenyl]-2,2-dimethylpropanamide | 1.48 g, 98% | COC=1C=C(C=CC1OCOC)NC(C(C)(C)C)=O | C14H21NO4
